* D:\Facultad ITBA\Año 5\Cuatrimestre 1\E4\E4\TP1\Simulaciones\TP1.asc
Vd N002 0 9
V1 N005 0 PULSE(1 0 0 0.1u 0.1u 10.75u 18.1818u)
R6 N006 N005 50
R3 N007 N006 270
R5 N001 N003 15K
R1 Gate N004 22
L1 N002 Drain 220µ Ipk=1 Rser=0.73 Rpar=138200 Cpar=3.475p
Ro Vo 0 57
Q1 0 N003 N004 0 2N2907
Q2 N001 N003 N004 0 2N2222
Q3 N003 N007 0 0 BC547B
M1 Drain Gate 0 0 IRF540
C1 Vo 0 4.7µ
C2 N002 0 1µ
Vgg N001 0 15
D1 Drain Vo MUR460
C3 N001 0 1µ
.model D D
.lib C:\Users\valen\OneDrive\Documentos\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\valen\OneDrive\Documentos\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\valen\OneDrive\Documentos\LTspiceXVII\lib\cmp\standard.mos
.tran 0 4.05m 4m 100u
.model DidI D(Ron=0.0001 Roff=100G Vfwd=0)
* Diodo ideal Von = 0V
* Rserie = 0.73
.backanno
.end
